US05464788
A mixture of ether (14 ml) and 40% aqueous potassium hydroxide (4.2 ml) was cooled in ice. N-Nitrosomethylurea (1.4g) was added in portions with gentle swirling over 30 min. The ether layer was decanted and dried over solid potassium hydroxide for 15 min. The ether solution was decanted, then cooled in an ice bath. A solution of 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoyl chloride (0.58 g, 1.86 mmol) in THF (3 ml) was added dropwise and the mixture was stirred at ambient temperature for 2 hours. Nitrogen was passed through the mixture for 1 hour, and the solution was then concentrated in vacuo. The residue was dissolved in methanol and treated with freshly prepared silver oxide (48 mg), and the mixture was heated at reflux for 30 min. Three additional lots of 100 mg of silver oxide were added with 1 hour reflux following each. The mixture was cooled and filtered, and the filtrate was concentrated in vacuo. The residue was chromatographed on silica gel eluted with 2%, followed by 4% methanol in methylene chloride. The product fractions were combined and evaporated to dryness in vacuo to give methyl 2-methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetate.

reactant | ether | 14 ml | CCOCC | C4H10O
reactant | potassium hydroxide | 4.2 ml | [OH-].[K+]
reactant | N-Nitrosomethylurea | 1.4g | N(=O)CNC(=O)N | C2H5N3O2
reactant | 2-methoxy-4-(1-acetyl-4-piperidyloxy)benzoyl chloride | 1.86 mmol, 0.58 g | COC1=C(C(=O)Cl)C=CC(=C1)OC1CCN(CC1)C(C)=O | C15H18ClNO4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | methyl 2-methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetate | COC1=C(C=CC(=C1)OC1CCN(CC1)C(C)=O)CC(=O)OC | C17H23NO5
